US08350044B2
Preparation of di(tert-butyl) 4-fluoro-2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-ylimidodicarbonate
To a degassed solution of di(tert-butyl) 2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-ylimidodicarbonate (1.0 g, 2.53 mmol) in anhydrous acetonitrile (20 mL) and DMF (10 mL) was added F-TEDA (SELECTFLUOR™) (1.8 g, 5.06 mmol). The reaction mixture was stirred at ambient temperature for 7 days. Water was added to the reaction mixture and the target extracted with ethyl acetate (2×). The organic layer was dried over sodium sulfate, was filtered and was concentrated. The crude mixture was purified via silica gel chromatography (0-100% ethyl acetate/hexanes) to afford a beige solid (860 mg, 82%): mp 143-143° C.; 1H NMR (300 MHz, CDCl3) δ 8.87 (t, J=1.4 Hz, 1H), 8.54 (d, J=2.7 Hz, 1H), 7.91 (ddd, J=8.9, 2.7, 1.8 Hz, 1H), 1.48 (s, 18H); ESIMS m/z 414 (M+1).

reactant | di(tert-butyl) 2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-ylimidodicarbonate | 2.53 mmol, 1.0 g | FC=1C=C(C=NC1)C=1SC(=CN1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H22FN3O4S
reactant | F-TEDA | 5.06 mmol, 1.8 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | Water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | di(tert-butyl) 4-fluoro-2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-ylimidodicarbonate | 860 mg, 82% | FC=1N=C(SC1N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=1C=NC=C(C1)F | C18H21F2N3O4S
